US09193692B2
A. Ethyl 2-(6-chloropyrazin-2-ylamino)acetate
To 2,6-dichloropyrazine (50 g, 336 mmol) and ethyl 2-aminoacetate (34.6 g, 336 mmol) was added triethylamine (140 mL, 1007 mmol) and acetonitrile (350 mL). The reaction was heated at 80° C. for 3 d. Precipitated triethylamine salts were removed by filtration and washed with ethyl acetate and hexane (1:1) multiple times. The filtrate and wash solvent were combined and concentrated. The resulting white-yellow precipitate was filtered and washed with 20% ethyl acetate in hexane to afford an off-white solid. The filtrate was subjected to the same process to give an additional batch of off-yellow solid. The batches were combined to afford the title compound (35.5 g, 164 mmol, 49% yield). MS (ESI) m/z 216.1 [M+1]+.

reactant | 2,6-dichloropyrazine | 336 mmol, 50 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | ethyl 2-aminoacetate | 336 mmol, 34.6 g | NCC(=O)OCC | C4H9NO2
reactant | triethylamine | 1007 mmol, 140 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 350 mL | C(C)#N | C2H3N
product | Ethyl 2-(6-chloropyrazin-2-ylamino)acetate | 164 mmol, 35.5 g, 49% yield | ClC1=CN=CC(=N1)NCC(=O)OCC | C8H10ClN3O2
